US07504397B2
(iii) 2,6-Dimethoxy-4-[3-(2-morpholin-4-yl-pyrimidin-4-yl)-3H-imidazol-4-yl]-phenol (50)
To a solution of 4-[4-(4-Bromo-imidazol-1-yl)-pyrimidin-2-yl]-morpholine (0.20 g, 0.65 mmol) in anhydrous dioxane (6 ml) and anhydrous DMA (0.6 m) was added tripotassium phosphate (0.28 g, 1.3 mmol) and 2,6-dimethoxy-phenol-boronic acid (0.18 g, 0.91 mmol). The resultant mixture was degassed with sonication for 10 minutes before the addition of bis(tri-butylphospine)palladium (0.017 g, 0.033 mmol) and degassing for a further 5 minutes. The reaction vessel was sealed and heated under the influence of microwave radiation (170° C., 11 min, low absorption setting). Upon completion, the reaction was filtered through a thin silica plug which was then washed with 10% methanol/CH2Cl2. The filtrate was concentrated in vacuo and the crude residue purified by flash chromatography (SiO2) (1:1—EtOAc:Hexanes) to give the desired product (0.24 g, 96%) as a white crystalline solid in analytically pure form. m/z (LC-MSW, ESP):384.4 [M+H]+, R/T=2.90 mins.

reactant | 4-[4-(4-Bromo-imidazol-1-yl)-pyrimidin-2-yl]-morpholine | 0.65 mmol, 0.20 g | BrC=1N=CN(C1)C1=NC(=NC=C1)N1CCOCC1 | C11H12BrN5O
reactant | tripotassium phosphate | 1.3 mmol, 0.28 g | P(=O)([O-])([O-])[O-].[K+].[K+].[K+]
reactant | 2,6-dimethoxy-phenol boronic acid | 0.91 mmol, 0.18 g | COC1=C(C(=CC=C1)OC)O.B(O)O
solvent | dioxane | 6 ml | O1CCOCC1 | C4H8O2
solvent | DMA | CC(=O)N(C)C | C4H9NO
product | 2,6-Dimethoxy-4-[3-(2-morpholin-4-yl-pyrimidin-4-yl)-3H-imidazol-4-yl]-phenol | 0.24 g, 96% | COC1=C(C(=CC(=C1)C=1N(C=NC1)C1=NC(=NC=C1)N1CCOCC1)OC)O | C19H21N5O4
